US07923450B2
b) 2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-cyclohexanone
A mixture of 5-(1,4-dioxa-spiro[4.5]dec-6-yl)-3-methyl-[1,2,4]oxadiazole (0.67 g, 3.0 mmol), tetrahydrofuran (70 mL), and 3 N hydrochloric acid (35 mL) was stirred at 60° C. for 13 h. The mixture was cooled and extracted with ethyl acetate. The organic layer was successively washed with saturated sodium bicarbonate solution and with brine, dried over sodium sulfate, and evaporated under reduced pressure. The remaining solid was recrystallized from heptane to give the title compound (0.11 g, 20%) as an off-white solid. MS ISP (m/e): 181.1 [(M+H)+]. mp 74-76° C.

reactant | 5-(1,4-dioxa-spiro[4.5]dec-6-yl)-3-methyl-[1,2,4]oxadiazole | 3.0 mmol, 0.67 g | O1CCOC12C(CCCC2)C2=NC(=NO2)C | C11H16N2O3
reactant | hydrochloric acid | 3 N, 35 mL | Cl | ClH
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-(3-Methyl-[1,2,4]oxadiazol-5-yl)-cyclohexanone | 0.11 g, 20% | CC1=NOC(=N1)C1C(CCCC1)=O | C9H12N2O2
